US08957070B2
4-Methyl-7-[(2-thienylsulfonyl)amino]-1H-indole-2-carboxylic acid
To a mixed solution of ethyl-4-methyl-7-[(2-thienylsulfonyl)amino]-1H-indole-2-carboxylate (0.88 g) in tetrahydrofuran (20 mL)-methanol (10 mL) was added aqueous solution (5 mL) of 85% potassium hydroxide (0.56 g), and the mixture was stirred at room temperature for 15 hr. Aqueous citric acid solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate, washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained crystals were washed with ethyl acetate-hexane to give the title compound (777 mg, yield 96%) as colorless crystals. melting point>280° C. (decomposition).

reactant | ethyl-4-methyl-7-[(2-thienylsulfonyl)amino]-1H-indole-2-carboxylate | 0.88 g | C(C)OC(=O)C=1NC2=C(C=CC(=C2C1)C)NS(=O)(=O)C=1SC=CC1 | C16H16N2O4S2
reactant | methanol | 10 mL | CO | CH4O
reactant | potassium hydroxide | 5 mL, 0.56 g | [OH-].[K+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 4-Methyl-7-[(2-thienylsulfonyl)amino]-1H-indole-2-carboxylic acid | 777 mg, yield 96% | CC1=C2C=C(NC2=C(C=C1)NS(=O)(=O)C=1SC=CC1)C(=O)O | C14H12N2O4S2
